US06521797B1
(a) Synthesis of methyl-heptan-3-one O-(4-allyl-2-methoxy-phenoxycarbonyl) oxime
A solution containing 7.47 g 5-methyl-heptan-3-one oxime and 6.33 g pyridine in 120 ml of dichloromethane was cooled to 5° C. Then, a solution of 13.00 g eugenol-chloroformate in 30 ml of dichloromethane was added to the solution and the resulting mixture was stirred for 68 hours at room temperature. Then, the mixture was acidified with aqueous hydrochloric acid, extracted with ether, washed with aqueous hydrochloric acid, saturated NaHCO3, and brine. The organic phase was dried, filtered, and evaporated to dryness. The resulting oil was purified by distillation and chromatography to yield 13.26 g of a colorless oil.

reactant | 5-methyl-heptan-3-one oxime | 7.47 g | CC(CC(CC)=NO)CC | C8H17NO
reactant | pyridine | 6.33 g | N1=CC=CC=C1 | C5H5N
reactant | eugenol chloroformate | 13.00 g | C=1(C(O)=CC=C(CC=C)C1)OC.ClC(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl-heptan-3-one O-(4-allyl-2-methoxy-phenoxycarbonyl) oxime | 13.26 g | C(C=C)C1=CC(=C(OC(=O)ON=C(CCC)CCCC)C=C1)OC | C19H27NO4
